US04180669
5-(1,2-Dimethylheptyl)-3-methoxyphenol
To 750 ml. cold dimethyl formaldehyde (DMF) was added 100 g. (1.06 mol.) ethanethiol. To this was added slowly 48 g. (1.14 mol.) of 57% NaH in mineral oil (which had been freed of mineral oil by washing with benzene). Then 90 g. (0.34 mol.) 1,3-dimethoxy-5(1,2-dimethylheptyl) benzene was added under a nitrogen atmosphere. The reaction mixture was refluxed overnight. Ice and water (4 l.) was added and the mixture was extracted with ether. The ether extracts were washed twice with 100 ml. 10% H2SO4, twice with water, dried (Na2SO4) and distilled. The product had b.p. 134/0.15 mm n25 =1.5090. Yield 71.5 g. (86%).

reactant | dimethyl formaldehyde | CC(=O)C | C3H6O
reactant | ethanethiol | 1.06 mol | C(C)S | C2H6S
reactant | NaH | 1.14 mol | [H-].[Na+]
reactant | 1,3-dimethoxy-5(1,2-dimethylheptyl) benzene | 0.34 mol | COC1=CC(=CC(=C1)C(C(CCCCC)C)C)OC | C17H28O2
solvent | water | 4 l | O | H2O
solvent | benzene | C1=CC=CC=C1 | C6H6
product | 5-(1,2-Dimethylheptyl)-3-methoxyphenol | CC(C(CCCCC)C)C=1C=C(C=C(C1)O)OC | C16H26O2
